* hand-written deck, not exported from any drawing
.title 5T OTA
.global VDD
.subckt OTA5T inp inn out
.iodir inp=input inn=input out=output
.name inp V_inp
.name inn V_inn
.name out V_out
MM1 d1 inp tail 0 nmos
.alias MM1 M1
.name M1 M_1
MM2 out inn tail 0 nmos
.alias MM2 M2
.name M2 M_2
MM3 d1 d1 VDD VDD pmos
.alias MM3 M3
.name M3 M_3
MM4 out d1 VDD VDD pmos
.alias MM4 M4
.name M4 M_4
MM5 tail vb 0 0 nmos
.alias MM5 M5
.name M5 M_5
.show tail
.ends
