* hand-written deck, not exported from any drawing
.title Cascode current mirror
.global VDD
.subckt CascMirror out
.iodir out=output
.name out I_out
IIREF VDD ref
.alias IIREF IREF
.name IREF I_REF
MM1 ref ref mid1 0 nmos
.alias MM1 M1
.name M1 M_1
MM2 mid1 mid1 0 0 nmos
.alias MM2 M2
.name M2 M_2
MM3 out ref mid2 0 nmos
.alias MM3 M3
.name M3 M_3
MM4 mid2 mid1 0 0 nmos
.alias MM4 M4
.name M4 M_4
.show mid1
.ends
