* hand-written deck, not exported from any drawing
.title Two-stage CMOS inverter chain
.global VDD
.subckt InvChain in out
.iodir in=input out=output
.name in A
.name out Out
MMP1 mid in VDD VDD pmos
.alias MMP1 MP1
.name MP1 M_P1
MMN1 mid in 0 0 nmos
.alias MMN1 MN1
.name MN1 M_N1
MMP2 out mid VDD VDD pmos
.alias MMP2 MP2
.name MP2 M_P2
MMN2 out mid 0 0 nmos
.alias MMN2 MN2
.name MN2 M_N2
CCL out 0
.alias CCL CL
.name CL C_L
.show mid
.ends
