* hand-written deck, not exported from any drawing
.title Cascode common-source stage with source degeneration
.global VDD
.subckt CSCascode in out
.iodir in=input out=output
.name in V_in
.name out V_out
RRD VDD out
.alias RRD RD
.name RD R_D
MM2 out vb x 0 nmos
.alias MM2 M2
.name M2 M_2
MM1 x in s 0 nmos
.alias MM1 M1
.name M1 M_1
RRS s 0
.alias RRS RS
.name RS R_S
CCL out 0
.alias CCL CL
.name CL C_L
.show x
.ends
