* hand-written deck, not exported from any drawing
.title ESD RC-triggered clamp with a two-stage inverter driver
.global VDD
.subckt RCClamp pad
.iodir pad=input
.name pad PAD
RRC VDD rc
.alias RRC RC
.name RC R_C
CCC rc 0
.alias CCC CC
.name CC C_C
MMP1 g1 rc VDD VDD pmos
.alias MMP1 MP1
.name MP1 M_P1
MMN1 g1 rc 0 0 nmos
.alias MMN1 MN1
.name MN1 M_N1
MMP2 g2 g1 VDD VDD pmos
.alias MMP2 MP2
.name MP2 M_P2
MMN2 g2 g1 0 0 nmos
.alias MMN2 MN2
.name MN2 M_N2
MMBIG VDD g2 0 0 nmos
.alias MMBIG MBIG
.name MBIG M_big
DDESD pad VDD diode
.alias DDESD DESD
.name DESD D_1
.show rc
.ends
