* hand-written: the plain nmos cascode of Chap. 9
.title Cascode stage with a resistive load
.global VDD
.subckt Cascode vin vb vout
.iodir vin=input vb=input vout=output
.name vin V_in
.name vb V_b
.name vout V_out
RD VDD vout
.name RD R_D
M2 vout vb x 0 nmos
.name M2 M_2
M1 x vin 0 0 nmos
.name M1 M_1
.show x
.ends
