* hand-written from Razavi Fig. 3.57 -- topology only, no geometry
.title Razavi Fig. 3.57 — voltage doubler
.subckt Fig3_57 vout
.iodir vout=output
.name vout V_out
VIN vin 0
.name VIN V_in
C1 vin x
.name C1 C_1
D1 0 x diode
.name D1 D_1
D2 x vout diode
.name D2 D_2
C2 vout 0
.name C2 C_2
.show x
.ends
