* hand-written from Razavi Fig. 7.36(a) -- topology only, no geometry
.title Razavi Fig. 7.36(a) — CS stage with a degenerated current source
.global VDD
.subckt Fig7_36a vin vb vout
.iodir vin=input vb=input vout=output
.name vin V_in
.name vb V_b
.name vout V_out
M2 vout vin VDD VDD pmos
.name M2 M_2
M1 vout vb s 0 nmos
.name M1 M_1
RS s 0
.name RS R_S
.ends
