* hand-written from Razavi Fig. 10.6(a) -- topology only, no geometry
.title Razavi Fig. 10.6(a) — bipolar differential pair
.global VCC
.subckt Fig10_6a vin1 vin2
.iodir vin1=input vin2=input
.name vin1 V_in1
.name vin2 V_in2
RCL VCC x
.name RCL R_C
RCR VCC y
.name RCR R_C
Q1 x vin1 p npn
.name Q1 Q_1
Q2 y vin2 p npn
.name Q2 Q_2
IEE p 0
.name IEE I_EE
.show x y
.ends
