* hand-written from Razavi Fig. 7.36(b) -- topology only, no geometry
.title Razavi Fig. 7.36(b) — common-gate stage
.global VDD
.subckt Fig7_36b vin vb1 vb2 vout
.iodir vin=input vb1=input vb2=input vout=output
.name vin V_in
.name vb1 V_b1
.name vb2 V_b2
.name vout V_out
M2 vout vb2 VDD VDD pmos
.name M2 M_2
M1 vout vb1 s 0 nmos
.name M1 M_1
RS s vin
.name RS R_S
.ends
