* hand-written from Razavi Fig. 10.6(b) -- topology only, no geometry
.title Razavi Fig. 10.6(b) — MOS differential pair
.global VDD
.subckt Fig10_6b vin1 vin2
.iodir vin1=input vin2=input
.name vin1 V_in1
.name vin2 V_in2
RDL VDD x
.name RDL R_D
RDR VDD y
.name RDR R_D
M1 x vin1 p 0 nmos
.name M1 M_1
M2 y vin2 p 0 nmos
.name M2 M_2
ISS p 0
.name ISS I_SS
.show x y
.ends
