* hand-written from Razavi Fig. 7.60(f) -- topology only, no geometry
.title Razavi Fig. 7.60(f) — CS stage with a resistor inside the load's feedback
.global VDD
.subckt Fig7_60f vin vout
.iodir vin=input vout=output
.name vin V_in
.name vout V_out
M2 n1 vout VDD VDD pmos
.name M2 M_2
RD n1 vout
.name RD R_D
M1 vout vin 0 0 nmos
.name M1 M_1
.ends
